US06207677B1
The title compound was-prepared from 3-(5-fluorobenzofuran-3-yl) propionic acid (3 g) and spiro(isobenzofuran-1(3H),4′-piperidine] (2 g) by the method described in EXAMPLE 12. 3-(5-Fluoro-benzofuran-3-yl)-propionic acid was prepared by a procedure similar to the preparation of 3-(2,3-dihydro-5-fluorobenzofuran-3-yl)-propionic acid as described in EXAMPLE 11, but omitting the reduction with magnesium turnings. The title compound, 8, crystallized as the oxalate salt from acetone by addition of oxalic acid. Yield: 2.6 g, mp: 157-59° C.

reactant | 3-(2,3-dihydro-5-fluorobenzofuran-3-yl)-propionic acid | FC=1C=CC2=C(C(CO2)CCC(=O)O)C1 | C11H11FO3
reactant | magnesium | [Mg] | Mg
product | 3-(5-Fluoro-benzofuran-3-yl)-propionic acid | FC=1C=CC2=C(C(=CO2)CCC(=O)O)C1 | C11H9FO3
